US06716851B2
4-(3-Phenylanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 3-aminobiphenyl (65 mg, 0.386 mmol) similar to Example 58. The mixture was basified with aqueous 2N NaOH to pH 10-12. The resulting precipitate was collected by filtration, washed with excess water:ethanol (1:1) and isolated as a light brown solid (64 mg, 85%). 1H NMR (CDCl3): 9.67 (s, 1H), 8.75 (d, J=5.4 Hz, 2H), 7.68 (s, 1H), 7.63-7.37 (m, 10H), 6.98 (s, 1H).

reactant | 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 3-aminobiphenyl | 0.386 mmol, 65 mg | NC=1C=C(C=CC1)C1=CC=CC=C1 | C12H11N
reactant | NaOH | 2N | [OH-].[Na+]
product | 4-(3-Phenylanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | C1(=CC=CC=C1)C=1C=C(NC2=NC(=NC(=C2)C(F)(F)F)C=2C=NC=CC2)C=CC1 | C22H15F3N4
